US05811556
An "activated derivative" of (6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydro-naphthalen-2-yl) acetic acid is a derivative that renders the acid more active in the reaction with [3-(1H-benzimidazol-2-yl)propyl]methylamine to form (1S,2S)-N-[3-(1H-benzimidazol-2-yl) propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide. Typical such derivatives include the corresponding acyl halides and anhydrides, and a preferred activated derivative is the mixed anhydride of(6-fluoro-2-hydroxy-1-isopropyl-1, 2,3,4-tetrahydronaphthalen-2-yl)acetic acid with trimethylacetic acid.

reactant | (6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydro-naphthalen-2-yl) acetic acid | FC=1C=C2CCC(C(C2=CC1)C(C)C)(O)CC(=O)O | C15H19FO3
reactant | [3-(1H-benzimidazol-2-yl)propyl]methylamine | N1C(=NC2=C1C=CC=C2)CCCNC | C11H15N3
product | (1S,2S)-N-[3-(1H-benzimidazol-2-yl) propyl]-2-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)-N-methylacetamide | N1C(=NC2=C1C=CC=C2)CCCN(C(C[C@@]2([C@H](C1=CC=C(C=C1CC2)F)C(C)C)O)=O)C | C26H32FN3O2
